US08067445B2
Step 1: (2′-{[(4-Chloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6,5′-dimethoxy-biphenyl-3-yl)-acetic acid methyl ester
Prepared according to the procedure described in Example 1, Step 6, using the following starting materials: (2′-ethylaminomethyl-6,5′-dimethoxy-biphenyl-3-yl)-acetic acid methyl ester and 4-chlorobenzyl chloroformate.

reactant | (2′-ethylaminomethyl-6,5′-dimethoxy-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=CC(=C1)OC)CNCC)=O | C20H25NO4
reactant | 4-chlorobenzyl chloroformate | ClC(=O)OCC1=CC=C(C=C1)Cl | C8H6Cl2O2
product | (2′-{[(4-Chloro-benzyloxycarbonyl)-ethyl-amino]-methyl}-6,5′-dimethoxy-biphenyl-3-yl)-acetic acid methyl ester | COC(CC=1C=C(C(=CC1)OC)C1=C(C=CC(=C1)OC)CN(CC)C(=O)OCC1=CC=C(C=C1)Cl)=O | C28H30ClNO6
